US08835420B2
Preparation x10: (S)-4-Amino-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile
To a round-bottomed flask was added (S)-4-amino-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile (200 mg, 0.477 mmol) in acetonitrile (5418 μL) and water (5418 μL). The mixture was cooled to 0° C. Oxone® (733 mg, 1.192 mmol) was added to give an orange solution. The reaction mixture was stirred at 0° C. for 30 min and then allowed to warm to room temperature. After 2 h, LCMS showed the reaction to be complete. The reaction mixture was subsequently diluted with EtOAc and washed with brine (3×). The combined organic layers were dried over Na2SO4, filtered, and concentrated to give the title compound as a yellow solid. ESI-MS m/z [M+H]+ calc'd for C20H21N9O2S, 452.15; found 452.4.

reactant | (S)-4-amino-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | 0.477 mmol, 200 mg | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)SC | C20H21N9S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | acetonitrile | 5418 μL | C(C)#N | C2H3N
solvent | water | 5418 μL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-Amino-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)S(=O)(=O)C | C20H21N9O2S
